US06849761B2
6-Methoxy-5-({[4-(trifluoromethoxy)benzyl]amino}methyl)-2-naphthoic acid methyl ester
To a stirred solution of 6-methoxy-5-formyl-2-naphthoic acid methyl ester (1.09 g, 4.46 mmol) in EtOH (40 mL) at room temperature was added 4-trifluoromethoxy-benzyl amine (0.749 mL, 4.91 mmol) followed by HOAc (0.255 mL, 4.46 mmol). After 10 min. at this temperature, sodium cyanoborohydride (0.420 g, 6.69 mmol) was added, and reaction was continued stirring at rt for 4 h. After 1 h at this temperature, the reaction was heated to 45° C. for 2 h. The solution was quenched with sat. aq. NaHCO3 (20 mL) and then extracted with EtOAc (200 mL). The organic layer was washed with brine (20 mL) and dried (MgSO4). After concentration, the residue was purified by flash chromatography (0 to 10% MeOH:CHCl3 gradient) to afford the product (0.780 g, 42%) as a solid; 1H NMR (DMSO-d6) δ3.77 (s, 2H), 3.86 (s, 3H), 3.88 (s, 3H), 4.07 (s, 2H), 7.26 (d, J =8.0 Hz, 2H), 7.44 (d, J=8.6 Hz, 2H), 7.48 (d, J=9.2 Hz, 1H), 7.88 (dd, J=1.9, 8.9 Hz, 1H), 8.06 (d, J=5.2 Hz, 1H), 8.08 (d, J=5.3 Hz, 1H), 8.52 (d, J=1.7 Hz, 1H); mass spectrum [(+) El], m/z 420 (M+H)+.

reactant | 6-methoxy-5-formyl-2-naphthoic acid methyl ester | 4.46 mmol, 1.09 g | COC(=O)C1=CC2=CC=C(C(=C2C=C1)C=O)OC | C14H12O4
reactant | 4-trifluoromethoxy-benzyl amine | 4.91 mmol, 0.749 mL | FC(OC1=CC=C(CN)C=C1)(F)F | C8H8F3NO
reactant | HOAc | 4.46 mmol, 0.255 mL | CC(=O)O | C2H4O2
reactant | sodium cyanoborohydride | 6.69 mmol, 0.420 g | C(#N)[BH3-].[Na+]
solvent | EtOH | 40 mL | CCO | C2H6O
product | 6-Methoxy-5-({[4-(trifluoromethoxy)benzyl]amino}methyl)-2-naphthoic acid methyl ester | 0.780 g, 42% | COC(=O)C1=CC2=CC=C(C(=C2C=C1)CNCC1=CC=C(C=C1)OC(F)(F)F)OC | C22H20F3NO4
